US05958942
i) Synthesis of 4,5-dihydro-2-methyl-4-[4-(trifluoromethanesulfonamido)butan-1-yl]-3H-1,4,8b-triazaacenaphthylene-3,5-dione
To a solution of 529 mg (6.00 mmol) of 1,4-diaminobutane and 1.55 g (12.0 mmol) of diisopropylethylamine in 20 ml of acetonitrile was added a solution of 2.10 g (60.0 mmol) of 5-ethoxycarbonyl-2-methyl-trichloroacetylimidazo[1,2-a]pyridine in 10 ml of acetonitrile. The mixture was heated for one hour under reflux. After cooling, to which was added 2.58 g (7.22 mmol) of N-phenyltrifluoromethanesulfonimide. The mixture was then stirred for two hours at room temperature. Insolubles were filtered off, and the filtrate was concentrated. To the concentrate was added chloroform, and the mixture was washed with an aqueous solution of sodium hydrogencarbonate, followed by drying over anhydrous magnesium sulfate. The solvent was distilled off, and the residue was purified by column chromatography (eluent: ethyl acetate), treated with ether to give 1.04 g of the desired compound (42.8%, colorless solid), m.p.183.0-184.0° C.

reactant | 1,4-diaminobutane | 6.00 mmol, 529 mg | NCCCCN | C4H12N2
reactant | diisopropylethylamine | 12.0 mmol, 1.55 g | C(C)(C)N(CC)C(C)C | C8H19N
reactant | 5-ethoxycarbonyl-2-methyl-trichloroacetylimidazo[1,2-a]pyridine | 60.0 mmol, 2.10 g | C(C)OC(=O)C1=CC=CC=2N1C(=C(N2)C)C(C(Cl)(Cl)Cl)=O | C13H11Cl3N2O3
reactant | N-phenyltrifluoromethanesulfonimide | 7.22 mmol, 2.58 g | C1=CC=C(C=C1)N(S(=O)(=O)C(F)(F)F)S(=O)(=O)C(F)(F)F | C8H5F6NO4S2
solvent | acetonitrile | 20 ml | C(C)#N | C2H3N
solvent | acetonitrile | 10 ml | C(C)#N | C2H3N
product | 4,5-dihydro-2-methyl-4-[4-(trifluoromethanesulfonamido)butan-1-yl]-3H-1,4,8b-triazaacenaphthylene-3,5-dione | 1.04 g, 42.8% | CC=1N=C2C=CC=C3C(N(C(C1N23)=O)CCCCNS(=O)(=O)C(F)(F)F)=O | C15H15F3N4O4S
